US08084481B2
2-(2-chlorobenzoyl)-N-cyclopropylhydrazinecarboxamide
Under an argon atmosphere, 10.0 g (58.6 mmol) of 2-chlorobenzoic acid hydrazide is placed in 50 ml tetrahydrofuran. 4.87 g (58.6 mmol) of cyclopropyl isocyanate, dissolved in 50 ml tetrahydrofuran, are added dropwise at 50° C., and the mixture further stirred overnight at 50° C. The resulting precipitate is filtered off after cooling to room temperature and then washed with diethyl ether. 13.9 g (93% of theory) of the target compound are thus obtained.

reactant | 2-chlorobenzoic acid hydrazide | 58.6 mmol, 10.0 g | ClC1=C(C(=O)NN)C=CC=C1 | C7H7ClN2O
reactant | cyclopropyl isocyanate | 58.6 mmol, 4.87 g | C1(CC1)N=C=O | C4H5NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(2-chlorobenzoyl)-N-cyclopropylhydrazinecarboxamide | ClC1=C(C(=O)NNC(=O)NC2CC2)C=CC=C1 | C11H12ClN3O2
